US07572915B2
1-(Cyclopentylthio)-4-nitrobenzene
Cyclopentanethiol (1.0 g) (available from Aldrich) was dissolved in acetonitrile (10 ml) and potassium carbonate (1.35 g) was added. After 5 min, 1-fluoro-4-nitrobenzene (1.38 g) (available from Aldrich) was added and the mixture was stirred at room temperature overnight. The mixture was diluted with water and extracted with ether. The organic layer was washed with 1M aqueous sodium hydroxide (20 ml), water (20 ml), and 1M aqueous hydrochoric acid (20 ml). The organic layer was separated and the solvent evaporated in vacuo to give the title compound as a yellow liquid (0.7 g).

reactant | Cyclopentanethiol | 1.0 g | C1(CCCC1)S | C5H10S
reactant | potassium carbonate | 1.35 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-fluoro-4-nitrobenzene | 1.38 g | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
solvent | water | O | H2O
product | 1-(Cyclopentylthio)-4-nitrobenzene | 0.7 g | C1(CCCC1)SC1=CC=C(C=C1)[N+](=O)[O-] | C11H13NO2S
